US07531532B2
Morpholine-4-carboxylic acid [4-(4-aminophenoxy)pyridin-2-yl]amide
Morpholine-4-carboxylic acid [4-(4-nitrophenoxy)pyridin-2-yl]amide (227 mg) was dissolved in ethanol (10 ml)-water (2 ml), and then electrolytic iron powder (150 mg) and ammonium chloride (300 mg) were added thereto, followed by heating under reflux for 1 hr. The reaction mixture was cooled down to room temperature, and then ethyl acetate-tetrahydrofuran (1:1) was added, followed by stirring. The mixture was filtered through celite to remove an insoluble portion, which was washed with ethyl acetate and water. The organic layer of the filtrate was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:5, then ethyl acetate). Fractions containing the target compound were concentrated under a reduced pressure to give a residue, which was then suspended in diethyl ether (6 ml)-hexane (12 ml). The solid was filtered, and dried under aeration to provide the titled compound (81.3 mg, 59.3%) as a pale yellow solid.

reactant | Morpholine-4-carboxylic acid [4-(4-nitrophenoxy)pyridin-2-yl]amide | 227 mg | [N+](=O)([O-])C1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCOCC2)C=C1 | C16H16N4O5
reactant | ammonium chloride | 300 mg | [Cl-].[NH4+]
reactant | ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
reactant | hexane | 12 ml | CCCCCC | C6H14
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
solvent | diethyl ether | 6 ml | C(C)OCC | C4H10O
catalyst | iron | 150 mg | [Fe] | Fe
product | Morpholine-4-carboxylic acid [4-(4-aminophenoxy)pyridin-2-yl]amide | 81.3 mg, 59.3% | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCOCC2)C=C1 | C16H18N4O3
